US05656648
N-[4-(4-Trifluoromethyl-2,6-dimethoxyphenyl)-2-thiazolyl]-1H-indole-2-carboxamide (method F).
A mixture of 0.609 g of 2-amino-4-(4-trifluoromethyl-2,6-dimethoxyphenyl)thiazole, 0.447 g of N-acetyl-2-indolecarboxylic acid, 1.062 g of BOP and 0.243 g of triethylamine in 30 ml of DCM is stirred at r.t. for 48 hours. 100 ml of water are added, and the organic phase is separated after settling has taken place, dried over sodium sulphate and evaporated under vacuum. The derivative acetylated on the indole nitrogen which is obtained is taken up in 50 ml of MeOH, 2 g of sodium carbonate are added and the mixture is stirred overnight at r.t. It is evaporated under vacuum, the residue is taken up with 100 ml of water, the mixture is extracted with DCM, and the organic phase is dried over sodium sulphate and evaporated under vacuum. 0.54 g of the expected product is obtained after crystallization in DCM, m.p.>260° C.

reactant | 2-amino-4-(4-trifluoromethyl-2,6-dimethoxyphenyl)thiazole | 0.609 g | NC=1SC=C(N1)C1=C(C=C(C=C1OC)C(F)(F)F)OC | C12H11F3N2O2S
reactant | N-acetyl-2-indolecarboxylic acid | 0.447 g | C(C)(=O)N1C(=CC2=CC=CC=C12)C(=O)O | C11H9NO3
reactant | BOP | 1.062 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | sodium carbonate | 2 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 50 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
solvent | triethylamine | 0.243 g | C(C)N(CC)CC | C6H15N
product | N-[4-(4-Trifluoromethyl-2,6-dimethoxyphenyl)-2-thiazolyl]-1H-indole-2-carboxamide | 0.54 g | FC(C1=CC(=C(C(=C1)OC)C=1N=C(SC1)NC(=O)C=1NC2=CC=CC=C2C1)OC)(F)F | C21H16F3N3O3S
